US07514463B2
Step 4: 6-Trifluoromethyl-1H-indazole-3-carboxylic acid methyl ester
To a solution of (2-acetylamino-4-trifluoromethylphenyl)-acetic acid methyl ester (16 g, 0.058 mol) in acetic acid (50 mL) was added dropwise t-butyl nitrite (90%) (7.35 g, 0.063 mol) over a period of 20 min. at 90-95° C. The mixture was then stirred for 0.5 h at 95° C., poured into cold water and stirred for 1 h. The precipitates were collected by filtration and washed with water. The crude material was dissolved in ethyl acetate and dried over sodium sulfate. The solvent was removed in vacuo. This material (13.4 g, 95%) was used without further purification in the next step. A small sample was crystallized from ethyl acetate to yield a white solid, mp 240-242° C. 1H NMR (DMSO-d-6) 8.25 (d, J=8.5 Hz, 1H), 8.04 (s, 1H), 7.58 (d, J=8.5 Hz, 1H), 3.95 (s, 3H). MS (FAB) m/z: 245.1 (M++1).

reactant | (2-acetylamino-4-trifluoromethylphenyl)-acetic acid methyl ester | 0.058 mol, 16 g | COC(CC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O)=O | C12H12F3NO3
reactant | t-butyl nitrite | 0.063 mol, 7.35 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | water | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 6-Trifluoromethyl-1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NNC2=CC(=CC=C12)C(F)(F)F | C10H7F3N2O2
